US07776857B2
1-Chloro-4-(4-chlorophenyl)phthalazine (30 mg, 109 μmol), p-toluenesulfonic acid monohydrate (10 mg, 55 μmol) and 4-(1,5-naphthyridin-4-ylthio)benzenamine (33 mg, 131 μmol) were combined in t-butanol in a sealed tube and the reaction mixture was stirred at 100° C. for 2 h. The mixture was concentrated in vacuo and the crude material was purified by silica gel chromatography (0 to 100% 90/10/1 CH2Cl2/MeOH/NH4OH) in CH2Cl2. The material was further purified by silica gel chromatography (0 to 100% EtOAc/hexane) to afford N-(4-(1,5-naphthyridin-4-ylthio)phenyl)-4-(4-chlorophenyl)phthalazin-1-amine. MS [M+H]=492; Calc'd 491.99 for C28H18ClN5S.

reactant | 1-Chloro-4-(4-chlorophenyl)phthalazine | 109 μmol, 30 mg | ClC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl | C14H8Cl2N2
reactant | p-toluenesulfonic acid monohydrate | 55 μmol, 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-(1,5-naphthyridin-4-ylthio)benzenamine | 131 μmol, 33 mg | N1=CC=C(C2=NC=CC=C12)SC1=CC=C(C=C1)N | C14H11N3S
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | N-(4-(1,5-naphthyridin-4-ylthio)phenyl)-4-(4-chlorophenyl)phthalazin-1-amine | N1=CC=C(C2=NC=CC=C12)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl | C28H18ClN5S
